data/mechanisms/records/IMS8-EQ8.9.json
{"mechanism_id": "IMS8-EQ8.9", "species": [{"species_id": "molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH:5]=[CH:6][C:7](=[O+:8])[CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dienol_ion", "mapped_smiles": "[CH3:1][CH2:2][CH:3]=[CH:5][CH:6]=[C:7]([CH3:9])[OH+:8]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "product_ion_favored", "mapped_smiles": "[CH2:2]=[CH:3][CH:5]=[CH:6][C:7]([CH3:9])=[OH+:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "alkyl_radical_R", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_molecular_ion", "species_ids": ["molecular_ion"]}, {"state_id": "state_dienol_ion", "species_ids": ["dienol_ion"]}, {"state_id": "state_products", "species_ids": ["product_ion_favored", "alkyl_radical_R"]}], "steps": [{"step_id": "step_rH_rearrangement", "from_state": "state_molecular_ion", "to_state": "state_dienol_ion", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [3, 5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage", "from_state": "state_dienol_ion", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 5]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [6, 7]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [7, 8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 146, "equation": "8.9", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Radical-cation McLafferty-type gamma-H rearrangement (labelled rH) of an ALPHA,BETA-unsaturated carbonyl molecular ion (the drawn C=C is conjugated to the C=O; the migrating gamma-H sits on the R-CH2 gamma carbon) through a 6-membered cyclic transition state, giving a conjugated dienol radical cation. Book draws 5 single-barb (fishhook) arcs (zoomed re-read): (i) the O odd-electron reaching toward the migrating gamma-H (arrowhead points left toward the H), (ii) the gamma C-H bond fishhook (the C-H bond breaks, the H leaving as an atom toward O), (iii) formation of the C3=C5 pi bond, (iv) the C5=C6 -> C6=C7 shift, and (v) the carbonyl pi (C7=O) rotating up onto O. Only the two heavy-atom framework pi-pair shifts that the arrow gate can track are emitted as electron_moves: C7=O -> C6=C7 (move 1) and C5=C6 -> C3=C5 (move 2), drawn by the book as single-barb fishhooks but encoded as two double-barbed pair shifts. The gamma-H migration from C3 to O and the O-radical's role in abstracting it are carried IMPLICITLY by the heavy-atom hydrogen counts (RDKit absorbs an explicit mapped H, so a C-H -> O-H bond move cannot be tracked in this schema); the odd electron remains on oxygen (O+.) across the step, consistent with the MOD rule DFS."}, {"evidence_id": "ev_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 146, "equation": "8.9", "figure": null, "panel": null, "section": "8 / Detailed Mechanisms of Ion Fragmentation"}, "confidence": 0.8, "curator_note": "Vinylogous radical-site alpha-cleavage (labelled a) of the dienol ion: the odd electron relays from O through the conjugated system to expel R. at the far end, giving the resonance-stabilized even-electron oxocarbenium C6H9O+ (charge delocalized over O and the diene; the O+-localized Kekule form is drawn/encoded here). Book draws 5 single-barb (fishhook) arcs: R. departure (arc pointing back onto R), C2=C3 formation, the internal C3=C5 -> C5=C6 shift, C6=C7 -> C7=O, and the O odd-electron into the new C=O. These are the seven single-electron moves' drawn subset (moves 1,2,4,6,7); the two pair-completing hooks (moves 3 and 5: C3=C5 -> C2=C3 and C6=C7 -> C5=C6) are NOT drawn on the page and are added here for electron balance. The odd electron ends on the departing R (R. radical), so oxygen carries no radical in the product ion."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 112.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_product_favored", "species_id": "product_ion_favored", "step_id": "step_alpha_cleavage", "observed_mz": 97.0648, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed"}}
